US09340546B2
To a solution of tert-butyl 4-methyl-4-methylsulfonyl-piperidine-1-carboxylate (430 mg, 1.550 mmol) in DCM (10 mL) was added TFA (3 mL, 38.94 mmol) and the solution stirred at room temperature for 1 h. The reaction was concentrated and azeotroped twice with DCM to give 4-methyl-4-(methylsulfonyl)piperidine as a sticky oil that was used in next step without further purification. MS (ES+) 178.0.

reactant | tert-butyl 4-methyl-4-methylsulfonyl-piperidine-1-carboxylate | 1.550 mmol, 430 mg | CC1(CCN(CC1)C(=O)OC(C)(C)C)S(=O)(=O)C | C12H23NO4S
reactant | TFA | 38.94 mmol, 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-methyl-4-(methylsulfonyl)piperidine | CC1(CCNCC1)S(=O)(=O)C | C7H15NO2S
